*$
* PART NUMBER:NJM2722
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2006
.Subckt NJM2722 OUT IN- IN+ V+ V-
X_U1     IN+ IN- V+ V- OUT NJM2722_ME
.ends  NJM2722
.subckt NJM2722_ME 1 2 3 4 5
  c1   11 12 14.434E-15
  c2    6  7 18.000E-15
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 1.2483E3 -1E3 1E3 1E3 -1E3
  ga    6  0 11 12 32.044E-3
  gcm   0  6 10 99 3.2044E-6
  iee   3 10 dc 30.051E-3
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 31.207
  rc2   4 12 31.207
  re1  13 10 29.433
  re2  14 10 29.433
  ree  10 99 6.6554E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 32.900
  vb    9  0 dc 0
  vc    3 53 dc 2.0979
  ve   54  4 dc 2.0979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=584.80)
.model qx2 PNP(Is=966.8700E-18 Bf=591.72)
.ends 
*$